US05650410
According to the same manner as that described in Example 33, ethyl 6-chloro-2-chloromethyl-4-(4-chlorophenyl)quinoline-3-carboxylate was reacted with diethylamine to give ethyl 6-chloro-4-(4-chlorophenyl)-2-(N,N-diethylaminomethyl)quinoline-3-carboxylate. This compound was recrystallized from ethanol. Colorless prisms, mp. 132°-133° C.

reactant | ethyl 6-chloro-2-chloromethyl-4-(4-chlorophenyl)quinoline-3-carboxylate | ClC=1C=C2C(=C(C(=NC2=CC1)CCl)C(=O)OCC)C1=CC=C(C=C1)Cl | C19H14Cl3NO2
reactant | diethylamine | C(C)NCC | C4H11N
product | ethyl 6-chloro-4-(4-chlorophenyl)-2-(N,N-diethylaminomethyl)quinoline-3-carboxylate | ClC=1C=C2C(=C(C(=NC2=CC1)CN(CC)CC)C(=O)OCC)C1=CC=C(C=C1)Cl | C23H24Cl2N2O2
